US04535073
A mixture of 2.22 grams of diisopropyl acetonylphosphonate and 1.51 grams of m-nitrobenzaldehyde was added to 10 ml of isopropanol, 300 mg of piperidine acetate was added thereto, and the mixture was heated to reflux for three hours with stirring. To this was added 2.48 grams of 2-(N-benzyl-N-methylamino)-ethyl 3-aminocrotonate and the mixture was heated to reflux for another five hours with stirring. The reaction mixture was concentrated, the residue was dissolved in ethyl acetate, the solution was washed with 1N aqueous solution of sodium hydroxide, aqueous solution of sodium bisulfite, and water, successively, then separated after addition of 1N hydrochloric acid solution, to the lower layer was added chloform followed by separation, the chloroform layer was washed with 5% aqueous solution of potassium carbonate and then with water, and dried. Chloroform was evaporated therefrom in vacuo, the residue was purified by subjecting to silica gel column chromatography (100 grams of silica gel used; eluting solution: ethyl acetate) and the resulting crystals were recrystallized from ethyl acetate to afford 3.04 grams of 2-(N-benzyl-N-methylamino)-ethyl 2,6-dimethyl-4-(3-nitrophenyl)-5-diisopropoxyphosphinyl-1,4-dihydropyridine-3-carboxylate, melting point 113°-15° C., melting point of the hydrochloride 119° C.

reactant | diisopropyl acetonylphosphonate | 2.22 grams | C(C(=O)C)P(OC(C)C)(OC(C)C)=O | C9H19O4P
reactant | m-nitrobenzaldehyde | 1.51 grams | [N+](=O)([O-])C=1C=C(C=O)C=CC1 | C7H5NO3
reactant | piperidine acetate | 300 mg | C(C)(=O)O.N1CCCCC1
reactant | 2-(N-benzyl-N-methylamino)-ethyl 3-aminocrotonate | 2.48 grams | N\C(=C/C(=O)OCCN(C)CC1=CC=CC=C1)\C | C14H20N2O2
solvent | isopropanol | 10 ml | C(C)(C)O | C3H8O
product | 2-(N-benzyl-N-methylamino)-ethyl 2,6-dimethyl-4-(3-nitrophenyl)-5-diisopropoxyphosphinyl-1,4-dihydropyridine-3-carboxylate | 3.04 grams | CC=1NC(=C(C(C1C(=O)OCCN(C)CC1=CC=CC=C1)C1=CC(=CC=C1)[N+](=O)[O-])P(=O)(OC(C)C)OC(C)C)C | C30H40N3O7P
